US08034945B2
(b). 4-[3-Bromo-5-hydroxy-4-(3-methoxy-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A mixture of 3-bromo-5-hydroxy-4-(3-methoxy-benzyloxy)-benzaldehyde (1.43 g), 3-aminocrotonitrile (350 mg) and 5-propylcyclohexane-1,3-dione (654 mg) in ethanol (100 ml) was heated at 80° C. for 17 h. The mixture was concentrated in vacuo and then purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | 3-bromo-5-hydroxy-4-(3-methoxy-benzyloxy)-benzaldehyde | 1.43 g | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)OC)O | C15H13BrO4
reactant | 3-aminocrotonitrile | 350 mg | C/C(=C\C#N)/N | C4H6N2
reactant | 5-propylcyclohexane-1,3-dione | 654 mg | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[3-Bromo-5-hydroxy-4-(3-methoxy-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | BrC=1C=C(C=C(C1OCC1=CC(=CC=C1)OC)O)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C28H29BrN2O4
